US08957203B2
Preparation of intermediate 4-chloro-2-ethylphthalazin-1(2H)-one
To a suspension of sodium hydride, 60% in mineral oil, (0.480 g, 12.00 mmol) in DMF (50 mL) was added 4-chlorophthalazin-1-ol (1.806 g, 10 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of iodoethane (2.339 g, 15.00 mmol) in DMF (50 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. The formed light yellow solid was filtered off and washed the cake with THF. The filtrate was diluted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated to give a residue that was purified by silica gel chromatography eluting with 20% EtOAc in hexanes to afford 1.8 g of the desired product 4-chloro-2-ethylphthalazin-1(2H)-one as an oil. MS: MS m/z 209.06 (M++1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.52-8.42 (m, 1H), 8.04-7.98 (m, 1H), 7.88 (dtd, J=18.5, 7.5, 1.5 Hz, 2H), 4.29 (q, J=7.1 Hz, 2H), 1.44 (t, J=7.2 Hz, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorophthalazin-1-ol | 10 mmol, 1.806 g | ClC1=NN=C(C2=CC=CC=C12)O | C8H5ClN2O
reactant | iodoethane | 15.00 mmol, 2.339 g | ICC | C2H5I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-ethylphthalazin-1(2H)-one | 1.8 g | ClC1=NN(C(C2=CC=CC=C12)=O)CC | C10H9ClN2O
